US05731315
A. ([3-[3-(S)-(4,6-Dichlorobenzo[b]thiophene-2-sulfonylamino)-2-oxo-pyrrolidin-1-ylmethyl]-phenyl]-iminomethyl)-carbamic acid 2,2.2-trichloroethyl ester
To a solution of 3-[3-(S)-(4,6-dichlorobenzo[b]thiophene-2-sulfonylamino)-2-oxo-pyrrolidin-1-ylmethyl]-benzamidine trifluoroacetate (0.25 g, 0.40 mmol), prepared as in EXAMPLE 14, Part E, in 4 mL of CH2Cl2 :DMF (10:1) is added N-methyl piperidine (0.12 g, 1.2 mmol) followed by trichloroethyl chloroformate (0.93 g, 0.44 mmol). The solution is stirred for 16 h. After this time, the solution is diluted with EtOAc. The organic layer is washed with 1N HCl, H2O, saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The residue is purified by column chromatography eluting with a gradient of 1% MeOH/CH2Cl2 to 3% MeOH/CH2Cl2 to afford the title compound (0.20 g, 0.30 mmol) as a white solid.

reactant | 3-[3-(S)-(4,6-dichlorobenzo[b]thiophene-2-sulfonylamino)-2-oxo-pyrrolidin-1-ylmethyl]-benzamidine trifluoroacetate | 0.40 mmol, 0.25 g | FC(C(=O)O)(F)F.ClC1=CC(=CC=2SC(=CC21)S(=O)(=O)N[C@@H]2C(N(CC2)CC=2C=C(C(=N)N)C=CC2)=O)Cl
reactant | N-methyl piperidine | 1.2 mmol, 0.12 g | CN1CCCCC1 | C6H13N
reactant | trichloroethyl chloroformate | 0.44 mmol, 0.93 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | CH2Cl2 DMF | 4 mL | C(Cl)Cl.CN(C)C=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ([3-[3-(S)-(4,6-Dichlorobenzo[b]thiophene-2-sulfonylamino)-2-oxo-pyrrolidin-1-ylmethyl]-phenyl]-iminomethyl)-carbamic acid 2,2.2-trichloroethyl ester | 0.30 mmol, 0.20 g | ClC(COC(NC(=N)C1=CC(=CC=C1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=C(S1)C=C(C=C2Cl)Cl)=O)=O)(Cl)Cl | C23H19Cl5N4O5S2
